US06066658
A mixture of ethyl 5-bromo-4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]thiophene-1-carboxylate (6.99 g), thiobenzamide (5.49 g) and ethanol (150 ml) was refluxed under heating for 3 hours, after which it was poured over water (500 ml) and extracted with ethyl acetate-tetrahydrofuran (3:1, v/v). The organic layer was washed with water and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with chloroform-hexane (1:1, v/v) to yield ethyl 4,5-dihydro-8-methylthio-2-phenylthieno[3,4-e]benzothiazole-6-carboxylate (2.63 g, 33.9%), which was then recrystallized from ethyl acetate-hexane. Colorless needles. Melting point 153-154° C.

reactant | ethyl 5-bromo-4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]thiophene-1-carboxylate | 6.99 g | BrC1C(C=2C(=C(SC2SC)C(=O)OCC)CC1)=O | C12H13BrO3S2
reactant | thiobenzamide | 5.49 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | ethyl 4,5-dihydro-8-methylthio-2-phenylthieno[3,4-e]benzothiazole-6-carboxylate | 2.63 g, 33.9% | CSC=1SC(=C2CCC3=C(N=C(S3)C3=CC=CC=C3)C21)C(=O)OCC | C19H17NO2S3
